US06066655
2-Cyanoethyl cyclopentyl 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylate
280 g (0.63 mol) of cyclopentyl 2-acetyl-3-(2-chloro-6-fluorophenyl)-2-propenoate are dissolved with 97.2 g (0.63 mol) of 2-cyanoethyl 3-amino-2-butenoate in 400 ml of isopropanol and the solution is heated under reflux for about 8 hours until monitoring by thin layer chromatography (silica gel, toluene/ethyl acetate 5:1) shows complete conversion. The reaction mixture is concentrated and the residue is taken up twice more with toluene and the mixture concentrated again. Filtration twice over 2 l of silica gel each time using a toluene/ethyl acetate gradient gives 160 g of the target compound as an oil. A portion is further purified by chromatography over silica gel and crystallization from ether to give a crystalline solid of melting point 135-136° C.

reactant | cyclopentyl 2-acetyl-3-(2-chloro-6-fluorophenyl)-2-propenoate | 0.63 mol, 280 g | C(C)(=O)C(C(=O)OC1CCCC1)=CC1=C(C=CC=C1F)Cl | C16H16ClFO3
reactant | 2-cyanoethyl 3-amino-2-butenoate | 0.63 mol, 97.2 g | NC(=CC(=O)OCCC#N)C | C7H10N2O2
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
product | 2-Cyanoethyl cyclopentyl 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylate | 160 g | ClC1=C(C(=CC=C1)F)C1C(=C(NC(=C1C(=O)OC1CCCC1)C)C)C(=O)OCCC#N | C23H24ClFN2O4
